US07625932B2
Preparation of 2-[4-(2-Fluoro-phenoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane
Add together 4-(2-fluoro-phenoxy)-iodobenzene (800 mg, 2.55 mmol), potassium acetate (751 mg, 3Eq.), and bis(pinacolato)diboron (971 mg, 1.5 Eq.) and [11′bis(diphenylphosphino) ferrocene]dichloro-palladium(II) (400 mg) in DMF (20 mL) and stir at 80° C. overnight under a nitrogen atmosphere. Cool to room temperature and pour into water and extract the desired product into ethyl acetate. Separate layers, and wash the organic layer once with water, dry over potassium carbonate, filter, and concentrate under reduced vacuum to give 721 mg as a dark oil. Purify the material by silica gel chromatography (Chromatotron™) eluting with methylene chloride to provide 235 mg of the title compound as an oil. Mass spectrum (m/e): 3.14.0 (M*): (Bruker 300) 1H NMR (CDCl3) δ 7.73-7.77 (2H, d), 7.04-7.20 (4H, m), 6.91-6.95 (2H, d), 1.31-1.34 (12H, s).

reactant | 4-(2-fluoro-phenoxy)-iodobenzene | 2.55 mmol, 800 mg | FC1=C(OC2=CC=C(C=C2)I)C=CC=C1 | C12H8FIO
reactant | potassium acetate | 751 mg, 3Eq. | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 971 mg, 1.5 Eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-Fluoro-phenoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | 235 mg | FC1=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=CC=C1 | C18H20BFO3
